### PR TITLE
feat: Imo2020 q6

### PR DESCRIPTION
**Pull request by JovanGerb**
Original PR: #23431

This PR adds a solution to IMO 2020 Q6. It follows the solution that I found when I was participating in the IMO. I used the statement formalization that was given by @jsm28.

---

- [x] depends on: #27257

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Archive/Imo/Imo2020Q6.lean [hunk 1]
```diff
@@ -0,0 +1,345 @@
...
+      exact lt_of_le_of_lt (card_filter_le S _) (by omega)) this
+    norm_num at h
+    use l, rank
+    constructor; · use a, b, ha, hb
+    intro p hp
+    specialize h p hp
+    grw [← h, ← hab]
+    rw [neg_div, Real.rpow_neg (by positivity)]
+    field_simp
+    rw [div_le_iff₀ (by positivity), div_mul_eq_mul_div₀, le_div_iff₀ (by positivity)]
```
Comment (dwrensha) [inline Archive/Imo/Imo2020Q6.lean]: After merging `master`, the new `field_simp`  means that this `rw` line needs to be deleted.

File: Archive/Imo/Imo2020Q6.lean [hunk 2]
```diff
@@ -0,0 +1,345 @@
...
+    omega
+  push_neg at h; simp at h
+  -- the `i`th interval in disjoint with `(f '' S) ∩ (a, b)`
+  obtain ⟨i, h⟩ := h; unfold rel at h
+  -- use the midpoint of the `i`th interval
+  use AffineMap.lineMap a b (i / n + 1 / (2 * n) : ℝ)
+  have ineq₁: (i / n : ℝ) ≤ 1 - 1 / n := by grw [Fin.is_le]; field_simp [n]; simp [n]
+  have : b - a > 0 := sub_pos.mpr hab
+  -- check that the point is in between `a` and `b`
+  constructor; constructor
```
Comment (dwrensha) [inline Archive/Imo/Imo2020Q6.lean]: How about `refine ⟨⟨?_, ?_⟩, ?_⟩` instead of the double `constructor`?

File: Archive/Imo/Imo2020Q6.lean [hunk 3]
```diff
@@ -324,3 +328,5 @@ theorem result : ∃ c : ℝ, 0 < c ∧ ∀ {n : ℕ}, 1 < n → ∀ {S : Finset
   ring_nf
   field_simp
   norm_num
+
+#min_imports
```
Comment (dwrensha) [inline Archive/Imo/Imo2020Q6.lean]: I think you did not intend to keep the `#min_imports` statement here?

File: Archive/Imo/Imo2020Q6.lean [hunk 4]
```diff
@@ -0,0 +1,332 @@
...
+  rcases hx with ⟨_, xl, xr⟩
+  rcases hy with ⟨_, yl, yr⟩
+  constructor
+  · linear_combination xl + yr
+  · linear_combination xr + yl
+
+
+variable [Fact (Module.finrank ℝ V = 2)]
+
+theorem result : ∃ c : ℝ, 0 < c ∧ ∀ {n : ℕ}, 1 < n → ∀ {S : Finset P}, #S = n →
```
Comment (dwrensha) [inline Archive/Imo/Imo2020Q6.lean]: This puts `result` in the root namespace. In other IMO files in `Archive/`, we either have a namespace like `namespace Imo2020Q6` or we name the result something unique like `theorem imo2020q6`.

File: Archive/Imo/Imo2020Q6.lean [hunk 5]
```diff
@@ -0,0 +1,332 @@
...
+      (∃ p₁ p₂, p₁ ∈ S ∧ p₂ ∈ S ∧ l.SOppSide p₁ p₂) ∧
+      ∀ p ∈ S, c * (n : ℝ) ^ (-1 / 3 : ℝ) ≤ Metric.infDist p l := by
+  let c : ℝ := 1/100
+  use c, by norm_num
+  intro n hn S hS one_le_dist
+  -- There are two main cases: either there is or there isn't a large distance between two points.
+  by_cases h_dist : ∃ᵉ (a ∈ S) (b ∈ S), (n : ℝ) ^ (2 / 3 : ℝ) ≤ dist a b
+  · -- If there are points with distance at least `n^(2/3)`, then we can solve the problem by
+    -- choosing the best perpendicular line though this segment.
+    -- sorry
```
Comment (dwrensha) [inline Archive/Imo/Imo2020Q6.lean]: This commented-out "sorry" appears to be unintentional.

File: Archive/Imo/Imo2020Q6.lean [hunk 6]
```diff
@@ -0,0 +1,336 @@
...
+    exact one_le_dist hx.1 hy.1
+  simp_rw [← project_eq_eqv] at bound
+  obtain ⟨l, rank, _sOpp, h⟩ := exists_affine_between_and_separated 1 S (·) _ a b 0 (1/2) le_rfl
+    (by norm_num) (by linarith only [one_le_dist ha hb h_ne]) bound h_ne
+  use l, rank
+  constructor; · use a, b, ha, hb
+  intro p hp
+  specialize h p hp
+  grw [← h]
+  field_simp
```
Comment (dwrensha) [inline Archive/Imo/Imo2020Q6.lean]: The non-terminal `field_simp` makes me nervous.
How about:

```diff
-  field_simp
   rw [le_div_iff₀ (by simp [h_ne])]
-
   specialize h_dist a ha b hb
   grw [Real.sqrt_le_sqrt h_dist.le]
   rw [Real.sqrt_eq_rpow, ← Real.rpow_mul (by positivity)]
-  rw [Real.rpow_neg (by positivity)]
-  norm_num
+  rw [neg_div, Real.rpow_neg (by positivity)]
   ring_nf
-  field_simp
+  simp only [fieldLe, c]
   norm_num
```

File: Archive/Imo/Imo2020Q6.lean [hunk 7]
```diff
@@ -0,0 +1,336 @@
...
+      intro p _
+      unfold rel
+      intro i hi j hj
+      by_contra h
+      replace disjoint : Disjoint (interval i) (interval j) := disjoint h
+      rw [Set.disjoint_left] at disjoint
+      exact disjoint hi hj
+    rw [card_univ, Fintype.card_fin] at this
+    omega
+  push_neg at h; simp at h
```
Comment (dwrensha) [inline Archive/Imo/Imo2020Q6.lean]: Non-terminal `simp` should be squeezed to a `simp only` via `simp?`, here and elsewhere.

If you add `set_option linter.flexible true` at the top of the file, it'll point you to what should be addressed.

Comment (JovanGerb) [reply Archive/Imo/Imo2020Q6.lean]: Thanks, I've removed all, appart from a `simp` followed by `positivity`, which to me seems like it shouldn't be a concern.

File: Archive/Imo/Imo2020Q6.lean [hunk 8]
```diff
@@ -0,0 +1,334 @@
+import Mathlib.Analysis.Convex.Side
+import Mathlib.Analysis.InnerProductSpace.PiL2
+import Mathlib.Combinatorics.Enumerative.DoubleCounting
+import Mathlib.Geometry.Euclidean.SignedDist
+import Mathlib.LinearAlgebra.AffineSpace.Ordered
```
Comment (jsm28) [inline Archive/Imo/Imo2020Q6.lean:5]: This file is missing the standard module header (including the informal problem statement and an outline of the solution, see README.md).

File: Archive/Imo/Imo2020Q6.lean [hunk 9]
```diff
@@ -0,0 +1,334 @@
...
+  on_goal 2 => linarith only [hij]
+  grw [hx]
+  rw [Metric.infDist_eq_iInf]
+  apply le_ciInf
+  simp only [SetLike.coe_sort_coe, Subtype.forall]
+  intro y hy
+  grw [← abs_signedDist_le_dist (b -ᵥ a)]
+  congr!
+  rw [AffineSubspace.mem_mk', LinearMap.mem_ker, innerₛₗ_apply] at hy
+  rw [AffineMap.lineMap_apply, vsub_vadd_eq_vsub_sub y, inner_sub_right, sub_eq_zero] at hy
```
Comment (jsm28) [inline Archive/Imo/Imo2020Q6.lean:144]: I'd generally suggest combining consecutive `rw` at the same location, if it works.

File: Archive/Imo/Imo2020Q6.lean [hunk 10]
```diff
@@ -0,0 +1,334 @@
...
+  rw [sub_eq_iff_eq_add', signedDist_triangle]
+  rw [signedDist_apply_apply, NormedSpace.normalize, real_inner_smul_left, hy]
+  rw [inner_smul_right, real_inner_self_eq_norm_sq]
```
Comment (jsm28) [inline Archive/Imo/Imo2020Q6.lean:147]: Likewise, consecutive `rw` can probably be combined.

File: Archive/Imo/Imo2020Q6.lean [hunk 11]
```diff
@@ -0,0 +1,334 @@
...
+  refine card_le_of_separated (S.filter (eqv · 0 ∈ Set.Ioo 0 (1/2))) (eqv · 1)
+    (by norm_num) (by linarith only [hN]) ?_
+    (fun x hx => ⟨neg_le_of_abs_le (h_bound x hx), le_of_abs_le (h_bound x hx)⟩)
+  intro x hx y hy h_ne
+  specialize h_sep hx hy h_ne
+  dsimp only
+  have := EuclideanSpace.dist_eq (eqv x) (eqv y)
+  simp only [AffineIsometryEquiv.dist_map, Fin.sum_univ_two] at this
+  rw [this] at h_sep
+  rw [Real.one_le_sqrt] at h_sep
```
Comment (jsm28) [inline Archive/Imo/Imo2020Q6.lean:195]: Another pair of consecutive `rw` that can probably be combined.
